US04279639
Synthesis of N-(2-amino-4-pyridyl)-N'-phenylurea
15 ml of 6 N hydrochloric acid was added to 173 mg (0.64 mmol) of N-(2-acetamido-4-pyridyl)-N'-phenylurea. The mixture was then stirred for 6 hrs. on a boiling water bath. After cooling, the crystals which deposited were removed by filtration and a small amount of water added thereto to dissolve the crystals while warming. An aqueous sodium carbonate solution was then added to the solution to neutrallize the same. The crystals which deposited were collected by filtration and recrystallized from methanol to give 98 mg. of the objective compound; yield 67.1%; m.p. above 290° C.

reactant | hydrochloric acid | 6 N, 15 ml | Cl | ClH
reactant | N-(2-acetamido-4-pyridyl)-N'-phenylurea | 0.64 mmol, 173 mg | C(C)(=O)NC1=NC=CC(=C1)NC(=O)NC1=CC=CC=C1 | C14H14N4O2
product | N-(2-amino-4-pyridyl)-N'-phenylurea | yield 67.1% | NC1=NC=CC(=C1)NC(=O)NC1=CC=CC=C1 | C12H12N4O
